US05213709
To a solution of 3.00 g (16.6 mM) of 9,10-dihydrophenanthrene in 40 ml of dry carbon disulfide, 2.73 g (20.5 mM) of anhydrous aluminum chloride was added while being cooled on an ice-common salt bath. Under cooling on the bath, 1.27 ml (17.9 mM) of acetylchloride was gradually added dropwise to the mixture at -4° to -2° C., followed by stirring for 1 hour and 30 minutes at room temperature without cooling on the bath. After the reaction, the reaction mixture was poured into a mixture of 50 g of ice and 15 ml of hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was washed with water, dried with anhydrous sodium sulfate, and distilled-off the solvent under reduced pressure to obtain 3.57 g of oily 2-acetyl-9,10-dihydrophenanthrene (Yield: 96.5%).

reactant | 9,10-dihydrophenanthrene | 16.6 mM, 3.00 g | C1=CC=CC=2C3=CC=CC=C3CCC12 | C14H12
reactant | aluminum chloride | 20.5 mM, 2.73 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetylchloride | 17.9 mM, 1.27 ml | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | carbon disulfide | 40 ml | C(=S)=S | CS2
product | 2-acetyl-9,10-dihydrophenanthrene | 3.57 g, Yield: 96.5% | C(C)(=O)C1=CC=2CCC3=CC=CC=C3C2C=C1 | C16H14O
